US08076491B2
ethyl 2-methyl-2-(pyridin-3-ylmethylamino)propanoate
Prepared as in Example 12-1b from nicotinaldehyde and ethyl 1-aminocyclopropanecarboxylate hydrochloride. Yield 95%, a white solid. MS 223 (MH+).

reactant | nicotinaldehyde | C(C1=CN=CC=C1)=O | C6H5NO
reactant | ethyl 1-aminocyclopropanecarboxylate hydrochloride | Cl.NC1(CC1)C(=O)OCC
product | ethyl 2-methyl-2-(pyridin-3-ylmethylamino)propanoate | Yield 95% | CC(C(=O)OCC)(C)NCC=1C=NC=CC1 | C12H18N2O2
